US09145429B2
A solution of 2-bromo-4-fluoro-5-hydroxybenzaldehyde (2.0 g, 9.1 mmol) in MeOH (15 mL) was cooled in an ice bath before treatment of NaBH4 (390 mg, 10.3 mmol). After the complete addition of NaBH4, the reaction mixture was allowed to stir for 1 h at room temperature before it was quenched with equal volume of water. EtOAc (20 mL) was added to the reaction solution and the layers were separated. The aqueous layer was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 4-bromo-2-fluoro-5-(hydroxymethyl)phenol (2.0 g, 83%).

reactant | 2-bromo-4-fluoro-5-hydroxybenzaldehyde | 9.1 mmol, 2.0 g | BrC1=C(C=O)C=C(C(=C1)F)O | C7H4BrFO2
reactant | NaBH4 | 10.3 mmol, 390 mg | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 4-bromo-2-fluoro-5-(hydroxymethyl)phenol | 2.0 g, 83% | BrC1=CC(=C(C=C1CO)O)F | C7H6BrFO2
